US07405228B2
Preparation of (S)-N-{3-[4-(4-(1-cyano-2-hydroxy-ethyl)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide.
The mixture of sodium borohydride (5.26 mmol), (S)-N-{3-[4-(4-(1-cyano-1-ethoxycarbonyl-methylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.34 mmol) in methanol (15 ml) was stirred for 0.5 hours at room temperature. The reaction mixture was neutralized with dilute hydrochloric acid. The solid was filtered and purified on silica gel column chromatography recrystallized from chloroform:methanol to provide tile compound in 76% yield.

reactant | sodium borohydride | 5.26 mmol | [BH4-].[Na+]
reactant | (S)-N-{3-[4-(4-(1-cyano-1-ethoxycarbonyl-methylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.34 mmol | C(#N)C(C(=O)OCC)=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C22H25FN4O5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | (S)-N-{3-[4-(4-(1-cyano-2-hydroxy-ethyl)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 76% yield | C(#N)C(CO)C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C20H25FN4O4
